US08912186B2
By a procedure similar to that of example 1.55, starting from 2-amino-4-trifluoromethylthiophenol and 3-(4-chlorophenyl)glutaric anhydride, 4-(5-trifluoromethyl-2-benzothiazolyl)-3-(4-chlorophenyl)butanoic acid was obtained as colourless solid.

reactant | 2-amino-4-trifluoromethylthiophenol | NC1=C(C=CC(=C1)C(F)(F)F)S | C7H6F3NS
reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 4-(5-trifluoromethyl-2-benzothiazolyl)-3-(4-chlorophenyl)butanoic acid | FC(C=1C=CC2=C(N=C(S2)CC(CC(=O)O)C2=CC=C(C=C2)Cl)C1)(F)F | C18H13ClF3NO2S
